US07666888B2
1-{[5-(2-Chlorophenyl)isoxazol-4-yl]carbonyl}-3-(trifluoromethyl)piperidine
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and DL-3-(trifluoromethyl)piperidine (9.2 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (11.6 mg). Calcd for C16H14ClF3N2O2: 358.0696, found 358.0702.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | DL-3-(trifluoromethyl)piperidine | 0.060 mmol, 9.2 mg | C1CC(CNC1)C(F)(F)F | C6H10F3N
product | 1-{[5-(2-Chlorophenyl)isoxazol-4-yl]carbonyl}-3-(trifluoromethyl)piperidine | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CCC1)C(F)(F)F | C16H14ClF3N2O2
